US05849758
2-(4'-Chlorophenyl)-4,5-dichloro-6-methoxypyrimidine
To a solution of 2-(4'-chlorophenyl)-4,5,6-trichloropyrimidine (1.85 g, 6.3 mmol) in methyl alcohol (30 mL) and THF (60 mL) is added a solution of sodium (0.145 g, 6.3 mmol) in methyl alcohol (10 mL) and the mixture is stirred at ambient temperature overnight. After removal of the solvents in vacuo dichloromethane is added to the residue and the resulting mixture is washed with water. After drying of the organic layer with anhydrous magnesium sulphate, the solvent is removed. Treating of the residue with pentane affords the title compound (1.75 g, 96%) as colorless crystals of melting point 157°-159° C.

reactant | 2-(4'-chlorophenyl)-4,5,6-trichloropyrimidine | 6.3 mmol, 1.85 g | ClC1=CC=C(C=C1)C1=NC(=C(C(=N1)Cl)Cl)Cl | C10H4Cl4N2
reactant | sodium | 6.3 mmol, 0.145 g | [Na] | Na
reactant | methyl alcohol | 30 mL | CO | CH4O
reactant | methyl alcohol | 10 mL | CO | CH4O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-(4'-Chlorophenyl)-4,5-dichloro-6-methoxypyrimidine | 1.75 g, 96% | ClC1=CC=C(C=C1)C1=NC(=C(C(=N1)Cl)Cl)OC | C11H7Cl3N2O
